Pro197
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 13:55:47

*Schematic Netlist:
C1 VIN 0 5uF CustomCap
V1 VIN 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 0

.SAVE 0 VIN V1#branch @V1[z] @C1[i] @C1[p] @V1[p]

*PLOT TRAN -1 1 A=@C1[i]

*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5
.CONTROL
SWEEP OPTION[TEMP] 20 60 20
.ENDC

*Models and Subcircuit:
.MODEL CustomCap CAP(C=0.5 TC1=0.4 VC1=0.4)

.END
