Pro1BC
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 13:59:12

*Schematic Netlist:
D1 NetD1_1 0 DIODE
V1 NetD1_1 0 0

.SAVE 0 NetD1_1 V1#branch @V1[z] @D1[id] @D1[p] @V1[p]

*PLOT DC -1 1 A=@D1[id]

.OPTIONS TEMP=150
*Selected Circuit Analyses:
.DC V1 0 0.75 0.001

*Models and Subcircuit:
.MODEL Diode D ( AF=1.0 Bv=5.2 CJO=0.0 EG=1.11 FC=0.5 Ibvl=0.2 Ibv=5 Ikf=10
+ IS=1E-14 Isr=1.8n KF=0.0 M=0.5 N=1.0 Nbv=3.1779 NBVL=1.0 Nr=1.5 Rs=.5875
+ TBV1=0.0 TBV2=0.0 TIKF=0.0 TRS1=0.0 TRS2=0.0 Vj=.75 XTI=3.0 )

.END
