Pro222
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 14:11:24

*Schematic Netlist:
V1KHz VIN 0 DC 0 SIN(0 5 1KHz 0 0 0) AC 1 0
XE1 VIN 0 VOUT 0 EPOLY
R1 0 VOUT 1K

.SAVE 0 VIN VOUT V1KHz#branch @V1KHz[z] @R1[i] @R1[p] @V1KHz[p]

*PLOT TRAN -1 1 A=VIN

*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5

*Models and Subcircuit:
.SUBCKT EPOLY 1 2 3 4
E1 3 4 POLY(1) (1, 2) 0.0 0.0 1
.ENDS EPOLY

.END
