Bandpass
*SPICE Netlist generated by Advanced Sim server on 13/11/2002 5:09:21 PM

*Schematic Netlist:
C1 N1 N2 10N
C2 N1 OUT 10N
E1 OUT 0 0 N2 1MEG
R1 N1 IN 15.92K
R2 N1 0 837.7
R3 N2 OUT 318.3K
V1 IN 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 0

.SAVE 0 IN N1 N2 OUT V1#branch @V1[z] @C1[i] @C2[i] @R1[i] @R2[i] @R3[i] @C1[p]
.SAVE @C2[p] @E1[p] @R1[p] @R2[p] @R3[p] @V1[p]

*PLOT AC -1 1 A=IN
*PLOT PZ -1 1 A=IN

*Selected Circuit Analyses:
.AC DEC 20 100 1E6
.PZ IN 0 OUT 0 VOL PZ

.END
